US04117128
2-Ethyl-3-[4-(2-diethylaminoethoxy)phenylsulfonyl]benzofuran
Reaction of 2-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran with 2-diethylaminoethyl chloride by the procedure described in Example 1 gives the title compound.

reactant | 2-ethyl-3-(4-hydroxyphenylsulfonyl)benzofuran | C(C)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C16H14O4S
reactant | 2-diethylaminoethyl chloride | C(C)N(CCCl)CC | C6H14ClN
product | 2-Ethyl-3-[4-(2-diethylaminoethoxy)phenylsulfonyl]benzofuran | C(C)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCCN(CC)CC)C=CC=C2 | C22H27NO4S
